US08039463B2
A solution of 1H-pyridin-2-one (950 mg, 10 mmol), 1-bromo-4-nitro-benzene (2.4 g, 12 mmol) and CuI (400 mg, 2 mmol) in dioxane (15 mL) was stirred for 15 minutes. N,N′-dimethyl ethylenediamine (363 mg, 4 mmol) was then added, followed by the addition of K3PO4 (4.25 g, 20 mmol). The resulting mixture was heated to reflux at 110° C. for 2 hours under an atmosphere of nitrogen. The reaction mixture was then cooled to room temperature and poured onto ice. The resulting precipitate was filtered and purified by column chromatography using silica gel 60-120 mesh (50-100% ethyl acetate in hexane) to afford 1.86 g (89%) of 1-(4-nitro-phenyl)-1H-pyridin-2-one. 1H NMR: (DMSO-d6): δ 8.46 (d, 2H), 7.8 (m, 3H), 7.6 (t, 1H), 6.6 (d, 1H).

reactant | 1H-pyridin-2-one | 10 mmol, 950 mg | N1C(C=CC=C1)=O | C5H5NO
reactant | 1-bromo-4-nitro-benzene | 12 mmol, 2.4 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | N,N′-dimethyl ethylenediamine | 4 mmol, 363 mg | CNCCNC | C4H12N2
reactant | K3PO4 | 20 mmol, 4.25 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 2 mmol, 400 mg | [Cu]I
product | 1-(4-nitro-phenyl)-1H-pyridin-2-one | 1.86 g, 89% | [N+](=O)([O-])C1=CC=C(C=C1)N1C(C=CC=C1)=O | C11H8N2O3
